US08030302B2
3-Fluoro-4-(6-fluoro-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yloxy) aniline
To a solution of N-(diphenylmethylene-3-fluoro-4-(6fluoro-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yloxy)aniline (1.45 g, 2.85 mmol) in THF (30 mL) and water (5 mL) is added 1N aqueous HCl (5.69 mL, 5.69 mmol). The reaction is stirred at RT for 2 hours. EtOAc is added and the mixture is washed with saturated aqueous NaHCO3 solution, saturated aqueous sodium chloride, dried over Na2SO4, filtered and evaporated. The residue is purified by chromatography eluting with DCM then EtOAc:hexane (1:1) to offer the desired product as a pale gel (0.53 g, 54% yield). MS (m/z): 346 (M+H).

reactant | diphenylmethylene-3-fluoro-4-(6fluoro-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yloxy)aniline | 2.85 mmol, 1.45 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=CC(=C(C=C1)OC=1C=C2C=NN(C2=CC1F)C1OCCCC1)F | C31H25F2N3O2
reactant | HCl | 5.69 mmol, 1N, 5.69 mL | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3-Fluoro-4-(6-fluoro-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yloxy) aniline | 0.53 g, 54% yield | FC=1C=C(N)C=CC1OC=1C=C2C=NN(C2=CC1F)C1OCCCC1 | C18H17F2N3O2
